* ------------------------------------------------------------------
* sar_ctrl.spice -- synchronous SAR control logic, rung-1 abstraction
*
* GENERATED by design/sar-logic/gen_sar_logic.py -- do not edit.
*
* Ideal XSPICE event-driven digital primitives (digital.cm: d_dff,
* d_and, d_or, d_inverter) plus adc_bridge/dac_bridge at the analog
* boundary. This is rung 1 of the fidelity ladder in DR-0010: it fixes
* the SEQUENCING and the SWITCH DECODE, and deliberately says nothing
* about gf180mcu gate delay (rung 3 / sim/sar-logic-cell-delay/ owns
* that).
*
* Conversion, M = 16 clocks (DR-0003), with DR-0014's TWO-PHASE
* BOTTOM-PLATE sample laid inside the same 4-clock sample window:
*   ph0..ph2   acquire  samp_tp and samp_bp both asserted: the top
*                       plate is held at Vcm by its own switch and
*                       every bottom plate tracks V_in through the
*                       cell's fourth leg
*   ph2->ph3   THE SAMPLING INSTANT -- samp_tp falls, the top-plate
*                       switch opens and the top node floats
*   ph3        the bottom plates stay on V_in one more clock
*   ph3->ph4   samp_bp falls a full bit cycle after the sampling
*                       instant: the bottom plates leave V_in for Vcm
*                       onto a node that is ALREADY isolated, which
*                       is the whole reason bottom-plate sampling is
*                       worth a fourth leg (DR-0014, README note [d])
*   ph4        trial 1  free MSB -- no array switching at all, the
*                       comparator decides the sign of the sampled
*                       residue (DR-0014 keeps DR-0011's free MSB)
*   ph5..ph13  trials 2..10, weights 256,128,...,1 engaged in turn
*   ph14       output register loads the 10 decisions
*   ph15       drdy asserted; array released back to Vcm
*
* Switch decode per weight w and side s -- FOUR one-hot legs per cell
* now, not three -- from the slice's own engage flag `eng`, the
* direction bit `dir` (= the decision of the PREVIOUS trial, which is
* also that trial's output bit) and the shared sample control `smp`:
*   in  = smp                      bottom plate on V_in (DR-0014)
*   rel = !eng & !smp              bottom plate parked at Vcm
*   p-side:  hi = eng &  dir       -> V_REF      lo = eng & !dir -> GND
*   n-side:  hi = eng & !dir       -> V_REF      lo = eng &  dir -> GND
*   n-side is additionally gated by `mode` (1 = differential): in
*   single-ended mode every n-side cell stays released to Vcm for the
*   whole conversion, per DR-0011 -- driving it too would double every
*   step and cost a bit of resolution. The `in` leg is NOT mode-gated:
*   both sides must acquire their own input pin, and DR-0011's mode
*   rule is about bit trials, not about the sample phase.
*   `eng` is zero for the whole sample window, so exactly one of the
*   four legs conducts at every instant -- the invariant
*   sim/sar-logic-functional/ measures directly as sw_conflict_*.
*
* Sign convention, RE-DERIVED FOR DR-0014 and the one place the
* superseded record's decode could not simply be carried forward.
* Sampling on the bottom plate INVERTS the residue with respect to the
* input: after the sample, top_p - top_n = -k*(V_inp - V_inn). The
* comparator is wired conventionally (cmp = 1 when top_p > top_n), so
* the controller inverts it ONCE at its own boundary --
*
*     dec = !cmp    = 1 when the sampled input is ABOVE the DAC's
*                     current estimate, i.e. 'add this weight'
*
* -- and `dir` therefore still holds the OUTPUT BIT of its position,
* exactly as under DR-0011, at the cost of the hi/lo assignment above
* being the mirror of DR-0011's. Inverting only one of the two would
* either diverge (right code polarity, wrong feedback direction) or
* emit the one's complement of the code (right feedback, wrong bits);
* both were checked against the closed loop before this form was
* chosen, and sim/sar-logic-functional/ falsifies either error on
* every one of the 1024 codes in both modes.
* ------------------------------------------------------------------

* --- ideal digital primitives -------------------------------------
.model sarl_dff d_dff(clk_delay=0.5n set_delay=0.5n
+ reset_delay=0.5n ic=0 rise_delay=0.5n fall_delay=0.5n)
.model sarl_dff1 d_dff(clk_delay=0.5n set_delay=0.5n
+ reset_delay=0.5n ic=1 rise_delay=0.5n fall_delay=0.5n)
.model sarl_and d_and(rise_delay=0.2n fall_delay=0.2n input_load=0)
.model sarl_or d_or(rise_delay=0.2n fall_delay=0.2n input_load=0)
.model sarl_inv d_inverter(rise_delay=0.2n fall_delay=0.2n
+ input_load=0)

* --- enabled bit register -----------------------------------------
* Captures `d` on the clock edge that ENDS the phase in which `en` is
* asserted, and holds otherwise. Written as an explicit D-mux rather
* than a gated clock: gating the clock with a phase signal that itself
* changes one gate delay after the clock edge creates a spurious
* rising edge on the gated clock, which is a real bug in a real
* implementation, not just in this model.
.subckt sar_bitreg clk d en q qb
a_inv en enb sarl_inv
a_sel [en d] dsel sarl_and
a_hold [enb q] dhold sarl_and
a_mux [dsel dhold] dnext sarl_or
a_ff dnext clk NULL NULL q qb sarl_dff
.ends sar_bitreg

* --- one bit slice: engage flag + direction bit + switch decode -----
* `arm`     one-hot phase pulse of the trial BEFORE this slice's own
*           trial: the slice engages on the edge entering its trial,
*           and the direction bit captures the decision made during
*           `arm` (which is also this bit position's output bit).
* `endconv` forces the engage flag low on the edge leaving the last
*           trial, releasing the whole array back to Vcm for the next
*           sample phase.
* `dec`     the comparator decision in OUTPUT-BIT polarity (= !cmp;
*           see the sign-convention note in the header).
* `smpb`    the inverse of the shared bottom-plate sample control,
*           distributed already-inverted so that all four legs of the
*           cell come out at the SAME logic depth. That is not
*           cosmetic: `rel` and the V_in leg are complementary during
*           the sample window, so a one-gate depth difference between
*           them opens a window in which a cell drives V_in and Vcm at
*           once -- which is exactly what the one-hot invariant is
*           there to catch, and it would catch this generator.
.subckt sar_slice clk dec mode arm endconv smpb dir dirb
+ rel_p hi_p lo_p rel_n hi_n lo_n
a_set [arm eng] eng_set sarl_or
a_ninv endconv nend sarl_inv
a_keep [eng_set nend] eng_d sarl_and
a_ff eng_d clk NULL NULL eng engb sarl_dff
xdir clk dec arm dir dirb sar_bitreg
* p side: always driven
a_relp [engb smpb] rel_p sarl_and
a_hip [eng dir] hi_p sarl_and
a_lop [eng dirb] lo_p sarl_and
* n side: driven only in differential mode (DR-0011). `engnb` is built
* as !eng | !mode rather than as an inverter on `engn`, so that it
* lands at the same depth as `engn` and rel_n/hi_n/lo_n switch
* together -- the same delay-balance argument as `smpb` above.
a_engn [eng mode] engn sarl_and
a_modeb mode modeb sarl_inv
a_engnb [engb modeb] engnb sarl_or
a_reln [engnb smpb] rel_n sarl_and
a_hin [engn dirb] hi_n sarl_and
a_lon [engn dir] lo_n sarl_and
.ends sar_slice

* --- 16-phase one-hot sequencer ------------------------------------
* A one-hot ring, seeded by ph15's ic=1 so the very first clock edge
* enters ph0 (sample) with exactly one token in the ring. `start`
* forces a synchronous restart: it sets stage 0 and clears every other
* stage on the same edge, so an asserted `start` cannot inject a
* SECOND token alongside the circulating one.
.subckt sar_seq clk start ph0 ph1 ph2 ph3 ph4 ph5 ph6 ph7 ph8 ph9 ph10 ph11 ph12 ph13 ph14 ph15
a_nstart start nstart sarl_inv
a_d0 [ph15 start] d0 sarl_or
a_ff0 d0 clk NULL NULL ph0 ph0b sarl_dff
a_d1 [ph0 nstart] d1 sarl_and
a_ff1 d1 clk NULL NULL ph1 ph1b sarl_dff
a_d2 [ph1 nstart] d2 sarl_and
a_ff2 d2 clk NULL NULL ph2 ph2b sarl_dff
a_d3 [ph2 nstart] d3 sarl_and
a_ff3 d3 clk NULL NULL ph3 ph3b sarl_dff
a_d4 [ph3 nstart] d4 sarl_and
a_ff4 d4 clk NULL NULL ph4 ph4b sarl_dff
a_d5 [ph4 nstart] d5 sarl_and
a_ff5 d5 clk NULL NULL ph5 ph5b sarl_dff
a_d6 [ph5 nstart] d6 sarl_and
a_ff6 d6 clk NULL NULL ph6 ph6b sarl_dff
a_d7 [ph6 nstart] d7 sarl_and
a_ff7 d7 clk NULL NULL ph7 ph7b sarl_dff
a_d8 [ph7 nstart] d8 sarl_and
a_ff8 d8 clk NULL NULL ph8 ph8b sarl_dff
a_d9 [ph8 nstart] d9 sarl_and
a_ff9 d9 clk NULL NULL ph9 ph9b sarl_dff
a_d10 [ph9 nstart] d10 sarl_and
a_ff10 d10 clk NULL NULL ph10 ph10b sarl_dff
a_d11 [ph10 nstart] d11 sarl_and
a_ff11 d11 clk NULL NULL ph11 ph11b sarl_dff
a_d12 [ph11 nstart] d12 sarl_and
a_ff12 d12 clk NULL NULL ph12 ph12b sarl_dff
a_d13 [ph12 nstart] d13 sarl_and
a_ff13 d13 clk NULL NULL ph13 ph13b sarl_dff
a_d14 [ph13 nstart] d14 sarl_and
a_ff14 d14 clk NULL NULL ph14 ph14b sarl_dff
a_d15 [ph14 nstart] d15 sarl_and
a_ff15 d15 clk NULL NULL ph15 ph15b sarl_dff1
.ends sar_seq

* --- digital top ----------------------------------------------------
.subckt sar_ctrl clk start mode cmp samp_tp samp_bp drdy b9 b8 b7 b6 b5 b4
+ b3 b2 b1 b0 rel_256p hi_256p lo_256p rel_128p hi_128p lo_128p rel_64p
+ hi_64p lo_64p rel_32p hi_32p lo_32p rel_16p hi_16p lo_16p rel_8p hi_8p
+ lo_8p rel_4p hi_4p lo_4p rel_2p hi_2p lo_2p rel_1p hi_1p lo_1p rel_256n
+ hi_256n lo_256n rel_128n hi_128n lo_128n rel_64n hi_64n lo_64n rel_32n
+ hi_32n lo_32n rel_16n hi_16n lo_16n rel_8n hi_8n lo_8n rel_4n hi_4n
+ lo_4n rel_2n hi_2n lo_2n rel_1n hi_1n lo_1n
xseq clk start ph0 ph1 ph2 ph3 ph4 ph5 ph6 ph7 ph8 ph9 ph10 ph11 ph12 ph13 ph14 ph15 sar_seq
* ---- DR-0014's two-phase sample ----------------------------------
* `samp_tp` closes the top-plate switch for ph0..ph2 and opens it on
* the edge into ph3: THAT edge is the sampling instant. `samp_bp`
* keeps every bottom plate on V_in for the whole 4-clock window, so
* the input legs turn off one full clock LATER, onto a top node that
* is already floating. Both are one-hot phase ORs off the same ring:
* one external clock, rising edges only (DR-0008), no gated or
* inverted clock anywhere in the sample path.
* `samp_bp` is emitted through smpb -> inverter rather than straight
* off the OR so that it lands at the SAME logic depth as each cell's
* `rel`, which is AND(engb, smpb). Those two legs are complementary
* across the sample boundary, so a one-gate depth difference would
* leave every cell driving V_in and V_cm together for 0.2 ns.
a_samp4 [ph0 ph1 ph2 ph3] samp4 sarl_or
a_samptp [ph0 ph1 ph2] samp_tp sarl_or
a_smpb samp4 smpb sarl_inv
a_sampbp smpb samp_bp sarl_inv
* The comparator decision, inverted once here into output-bit
* polarity: bottom-plate sampling inverts the residue with respect to
* the input (DR-0014). See the header's sign-convention note.
a_dec cmp dec sarl_inv
a_drdy ph15 drdy_n sarl_inv
a_drdy2 drdy_n drdy sarl_inv
xs256 clk dec mode ph4 ph13 smpb q9 q9b rel_256p hi_256p lo_256p rel_256n hi_256n lo_256n sar_slice
xs128 clk dec mode ph5 ph13 smpb q8 q8b rel_128p hi_128p lo_128p rel_128n hi_128n lo_128n sar_slice
xs64 clk dec mode ph6 ph13 smpb q7 q7b rel_64p hi_64p lo_64p rel_64n hi_64n lo_64n sar_slice
xs32 clk dec mode ph7 ph13 smpb q6 q6b rel_32p hi_32p lo_32p rel_32n hi_32n lo_32n sar_slice
xs16 clk dec mode ph8 ph13 smpb q5 q5b rel_16p hi_16p lo_16p rel_16n hi_16n lo_16n sar_slice
xs8 clk dec mode ph9 ph13 smpb q4 q4b rel_8p hi_8p lo_8p rel_8n hi_8n lo_8n sar_slice
xs4 clk dec mode ph10 ph13 smpb q3 q3b rel_4p hi_4p lo_4p rel_4n hi_4n lo_4n sar_slice
xs2 clk dec mode ph11 ph13 smpb q2 q2b rel_2p hi_2p lo_2p rel_2n hi_2n lo_2n sar_slice
xs1 clk dec mode ph12 ph13 smpb q1 q1b rel_1p hi_1p lo_1p rel_1n hi_1n lo_1n sar_slice
xb0 clk dec ph13 q0 q0b sar_bitreg
* 10-bit parallel output register (DR-0005: in scope, SPI deferred)
xo9 clk q9 ph14 b9 b9b sar_bitreg
xo8 clk q8 ph14 b8 b8b sar_bitreg
xo7 clk q7 ph14 b7 b7b sar_bitreg
xo6 clk q6 ph14 b6 b6b sar_bitreg
xo5 clk q5 ph14 b5 b5b sar_bitreg
xo4 clk q4 ph14 b4 b4b sar_bitreg
xo3 clk q3 ph14 b3 b3b sar_bitreg
xo2 clk q2 ph14 b2 b2b sar_bitreg
xo1 clk q1 ph14 b1 b1b sar_bitreg
xo0 clk q0 ph14 b0 b0b sar_bitreg
.ends sar_ctrl

* --- analog-boundary wrapper ----------------------------------------
* Presents the controller at the analog boundary with the port names
* design/cdac/cdac_array.sch uses, so the two connect directly. Only
* the NMOS-gate (active-high) half of each T-gate leg is routed out of
* the controller; `sar_tgate_drv` below makes the PMOS gate locally at
* the cell. Bridges are VECTOR instances on purpose: 54 scalar
* dac_bridges would put 54 separate sources in the analog matrix.
* DR-0014's two additions ride on the SCALAR bridge group with drdy
* and the code bits, not on the 54-wide array bus: `sel_in_n` is one
* broadcast net feeding every cell's fourth leg and `samp_tp_n` is the
* per-side top-plate switch, so the array control bus grows from 54 to
* 55 wires, not to 72.
.subckt sar_ctrl_a clk start mode cmp samp_tp_n sel_in_n drdy c9 c8 c7 c6
+ c5 c4 c3 c2 c1 c0 rel_n_256p sel_hi_n_256p sel_lo_n_256p rel_n_128p
+ sel_hi_n_128p sel_lo_n_128p rel_n_64p sel_hi_n_64p sel_lo_n_64p
+ rel_n_32p sel_hi_n_32p sel_lo_n_32p rel_n_16p sel_hi_n_16p sel_lo_n_16p
+ rel_n_8p sel_hi_n_8p sel_lo_n_8p rel_n_4p sel_hi_n_4p sel_lo_n_4p
+ rel_n_2p sel_hi_n_2p sel_lo_n_2p rel_n_1p sel_hi_n_1p sel_lo_n_1p
+ rel_n_256n sel_hi_n_256n sel_lo_n_256n rel_n_128n sel_hi_n_128n
+ sel_lo_n_128n rel_n_64n sel_hi_n_64n sel_lo_n_64n rel_n_32n sel_hi_n_32n
+ sel_lo_n_32n rel_n_16n sel_hi_n_16n sel_lo_n_16n rel_n_8n sel_hi_n_8n
+ sel_lo_n_8n rel_n_4n sel_hi_n_4n sel_lo_n_4n rel_n_2n sel_hi_n_2n
+ sel_lo_n_2n rel_n_1n sel_hi_n_1n sel_lo_n_1n
a_in [clk start mode cmp] [dclk dstart dmode dcmp] sarl_adc
xctrl dclk dstart dmode dcmp dsamp_tp dsamp_bp ddrdy db9 db8 db7 db6 db5
+ db4 db3 db2 db1 db0 drel_256p dhi_256p dlo_256p drel_128p dhi_128p
+ dlo_128p drel_64p dhi_64p dlo_64p drel_32p dhi_32p dlo_32p drel_16p
+ dhi_16p dlo_16p drel_8p dhi_8p dlo_8p drel_4p dhi_4p dlo_4p drel_2p
+ dhi_2p dlo_2p drel_1p dhi_1p dlo_1p drel_256n dhi_256n dlo_256n
+ drel_128n dhi_128n dlo_128n drel_64n dhi_64n dlo_64n drel_32n dhi_32n
+ dlo_32n drel_16n dhi_16n dlo_16n drel_8n dhi_8n dlo_8n drel_4n dhi_4n
+ dlo_4n drel_2n dhi_2n dlo_2n drel_1n dhi_1n dlo_1n sar_ctrl
a_dout [dsamp_tp dsamp_bp ddrdy db9 db8 db7 db6 db5 db4 db3 db2 db1 db0]
+ [samp_tp_n sel_in_n drdy c9 c8 c7 c6 c5 c4 c3 c2 c1 c0] sarl_dac
a_gn [drel_256p dhi_256p dlo_256p drel_128p dhi_128p dlo_128p drel_64p dhi_64p dlo_64p drel_32p dhi_32p dlo_32p drel_16p dhi_16p dlo_16p drel_8p dhi_8p dlo_8p drel_4p dhi_4p dlo_4p drel_2p dhi_2p dlo_2p drel_1p dhi_1p dlo_1p drel_256n dhi_256n dlo_256n drel_128n dhi_128n dlo_128n drel_64n dhi_64n dlo_64n drel_32n dhi_32n dlo_32n drel_16n dhi_16n dlo_16n drel_8n dhi_8n dlo_8n drel_4n dhi_4n dlo_4n drel_2n dhi_2n dlo_2n drel_1n dhi_1n dlo_1n]
+ [rel_n_256p sel_hi_n_256p sel_lo_n_256p rel_n_128p sel_hi_n_128p sel_lo_n_128p rel_n_64p sel_hi_n_64p sel_lo_n_64p rel_n_32p sel_hi_n_32p sel_lo_n_32p rel_n_16p sel_hi_n_16p sel_lo_n_16p rel_n_8p sel_hi_n_8p sel_lo_n_8p rel_n_4p sel_hi_n_4p sel_lo_n_4p rel_n_2p sel_hi_n_2p sel_lo_n_2p rel_n_1p sel_hi_n_1p sel_lo_n_1p rel_n_256n sel_hi_n_256n sel_lo_n_256n rel_n_128n sel_hi_n_128n sel_lo_n_128n rel_n_64n sel_hi_n_64n sel_lo_n_64n rel_n_32n sel_hi_n_32n sel_lo_n_32n rel_n_16n sel_hi_n_16n sel_lo_n_16n rel_n_8n sel_hi_n_8n sel_lo_n_8n rel_n_4n sel_hi_n_4n sel_lo_n_4n rel_n_2n sel_hi_n_2n sel_lo_n_2n rel_n_1n sel_hi_n_1n sel_lo_n_1n] sarl_dac
.ends sar_ctrl_a

* --- local T-gate driver -------------------------------------------
* One per T-gate leg, placed with the CDAC cell (#15/#16), not with
* the controller: `gn` is the controller's active-high control and
* `gp` the complementary PMOS gate. Modelled as an ideal inverter at
* rung 1; at rung 3 it is one standard-cell inverter.
.subckt sar_tgate_drv gn gp
a_adc gn dgn sarl_adc
a_inv dgn dgp sarl_inv
a_dac dgp gp sarl_dac
.ends sar_tgate_drv

* Bridge models. Thresholds and rails track the PVT point's supply, so
* the supply axis of the corner grid actually moves something in this
* otherwise PVT-invariant model.
.model sarl_adc adc_bridge(in_low={vdd_val*0.4} in_high={vdd_val*0.6})
.model sarl_dac dac_bridge(out_low=0 out_high={vdd_val}
+ out_undef={vdd_val/2} t_rise=0.3n t_fall=0.3n)
